Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
erythromycin base / Beta-Blockers (Beta-Adrenergic Blocking 
Agts) / Doxycycline / Sulfa / Labetolol
 
Attending: ___.
 
Chief Complaint:
Motor vehicle collision right-sided numbness

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Pt is a ___ yoF who presents with numbness of her entire right 
side s/p low speed MVC this afternoon. pt was transferred in a c 
collar for this finding with reported negative CT head and C 
___ imaging from outside hospital. Pt endorses headstrike and 
pain on R foot and shoulder. 

 
Past Medical History:
PMH/PSH: HTN and asthma per pt

 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Admission Physical Exam:

Temp: 96.8 HR: 94 BP: 160/82 Resp: 18 O(2)Sat: 85 Low
 
Constitutional: Comfortable
HEENT: Normocephalic, atraumatic
Oropharynx within normal limits
Chest: minimal wheezing but limited exam
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft
Rectal: normal rectal tone
GU/Flank: No costovertebral angle tenderness
Extr/Back: No cyanosis, clubbing or edema
Skin: No rash
Neuro: Speech fluentallergies he is ___ for her closed
eyes, moving all extremities
Psych: Normal mood

Discharge Physical Exam:

VS: T: 98.5, HR: 92, BP: 131/79, RR: 18, O2: 93% RA
General: A+Ox3, NAD
HEENT: normocephalic, atraumatic
CV: RRR
PULM: mildly decreased at left lower lobe base, otherwise CTA
ABD: soft, non-distended, non-tender
Extremities: warm, well-perfused, no edema
Neuro: moves all extremities
Psych: normal mood
 
Pertinent Results:
___ 05:01PM   LACTATE-0.9
___ 04:40PM   GLUCOSE-102* UREA N-20 CREAT-1.3* SODIUM-142 
POTASSIUM-4.5 CHLORIDE-98 TOTAL CO2-36* ANION GAP-13
___ 04:40PM   proBNP-720*
___ 04:40PM   CALCIUM-9.1 PHOSPHATE-4.0 MAGNESIUM-2.2
___ 04:40PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:40PM   WBC-4.3 RBC-4.75 HGB-13.5 HCT-43.7 MCV-92 
MCH-28.4 MCHC-30.9* RDW-14.4 RDWSD-48.8*
___ 04:40PM   NEUTS-64.4 ___ MONOS-8.1 EOS-4.6 
BASOS-0.7 NUC RBCS-0.0 IM ___ AbsNeut-0.03* AbsLymp-0.94* 
AbsMono-0.35 AbsEos-0.20 AbsBaso-0.03
___ 04:40PM   PLT COUNT-69*

Imaging:

___: CXR:

Enlarged cardiac silhouette could be due to cardiomyopathy 
however underlying
pericardial effusion is not excluded.
 
No definite focal consolidation.

___: CT ___:

1. No fracture or malalignment.
2. Cardiomegaly with mild interstitial edema, small left 
effusion with
bibasilar atelectasis.

___: CT L ___:
No acute fracture or malalignment.  No significant degenerative 
disease.

___: Right Foot AP/Lateral/OBL:
No acute findings.

___: MR ___:
1.  Multilevel multifactorial degenerative changes throughout 
the cervical
___ as described in detail above, more significant from C3/C4 
through C6/C7 levels.
 
2.  No focal or diffuse lesions are visualized throughout the 
cervical spinal cord to indicate spinal cord edema or cord 
expansion.

___: CXR PA&LAT:
1.  Moderate cardiomegaly with small left pleural effusion.
2.  No overt pulmonary edema, better visualized on CT thoracic 
___ with
expanded field of view from 4 hours prior.

___: CXR PA&LAT:
Moderate to severe cardiomegaly unchanged since ___.  
Borderline Upper lobe vascular redistribution, improved.  
Lateral view shows progressive consolidation left lower lobe 
consistent with pneumonia.  Pleural effusion minimal if any.
 
Brief Hospital Course:
Ms. ___ is a ___ year-old female who was transferred to ___ 
on ___ from an OSH s/p motor vehicle collision.  The 
patient reported right-sided numbness and had a CT Head and 
___ from the OSH which were negative for injury. She was 
admitted to the Trauma/Acute ___ Surgery service for further 
medical treatment. 

On HD1, the ___ was consulted and recommended CT images of the 
entire ___ which were negative for injury.  MRI of the ___ 
was also negative for ligamentous injury.  Her c-collar was 
cleared and she was placed in a soft collar for comfort. 

The ___ hospital course is summarized by systems below:

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with oral acetaminophen once 
tolerating a diet. 

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulmonary: The patient, who has a medical history of asthma, was 
noted to have decreased oxygenation saturation to the low ___ 
on RA. On auscultation, she had b/l wheezing and albuterol was 
administered via nebulizer with good effect; a prescription for 
a home nebulizer was provided. vital signs were routinely 
monitored. Good pulmonary toilet, early ambulation and incentive 
spirometry were encouraged throughout hospitalization. 

GI/GU/FEN: The patient was advanced to a Regular diet, which was 
well tolerated. Patient's intake and output were closely 
monitored

ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.

Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
Unknown
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H:PRN pain 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H 
3. Aspirin 81 mg PO DAILY 
4. Diltiazem 180 mg PO BID 
5. Furosemide 40 mg PO BID 
6. HydrALAzine 100 mg PO BID 
7. Lisinopril 40 mg PO BID 
8. Levofloxacin 750 mg PO Q24H 
no strenuous exercise while taking this medication 
RX *levofloxacin 750 mg 1 tablet(s) by mouth Q24H Disp #*5 
Tablet Refills:*0
9. Nebulizer
one nebulizer machine 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Motor Vehicle Collision
Right Sided Parasthesias
Cervical ___ multilevel, multifactorial degenerative changes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were transferred to ___ on ___ after suffering a 
motor vehicle collision. You were experiencing numbness in the 
right half of your body. CT scans of your ___ were negative 
for any injury, and an MRI of the neck showed bulging discs but 
no ligamentous injury. You have a soft cervical neck brace on 
for support. You should follow-up in the ___ clinic in ___ 
weeks as needed if your symptoms are not improving.

You are now medically cleared to be discharged to home.  Please 
note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___